US07208140B2
a) 1,4,7-Tris-(benzyloxycarbonyl)-10-(ethoxycarbonylmethyl)-1,4,7,10-tetrazacyclododecane
68.2 g (118.6 mmol) of 1,4,7-tris-(benzyloxycarbonyl)-1,4,7,10-tetrazacyclododecane (Delaney et al., J Chem. Soc. Perkin Trans. 1991, 3329) is dissolved in 700 ml of acetonitrile and mixed with 75.4 g (545.5 mmol) of sodium carbonate. Then, 39.6 g (355.5 mmol) of bromoacetic acid ethyl ester is added while being stirred vigorously, and it is heated for 20 hours to 40° C. Insoluble components are filtered out, evaporated to the dry state and chromatographed on silica gel (mobile solvent: ethyl acetate/hexane 20:1). The fractions that contain the product are combined and concentrated by evaporation.

reactant | 1,4,7-tris-(benzyloxycarbonyl)-1,4,7,10-tetrazacyclododecane | 118.6 mmol, 68.2 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CCN(CCNCC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C32H38N4O6
reactant | sodium carbonate | 545.5 mmol, 75.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromoacetic acid ethyl ester | 355.5 mmol, 39.6 g | C(C)OC(CBr)=O | C4H7BrO2
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
product | 1,4,7-Tris-(benzyloxycarbonyl)-10-(ethoxycarbonylmethyl)-1,4,7,10-tetrazacyclododecane | C(C1=CC=CC=C1)OC(=O)N1CCN(CCN(CCN(CC1)CC(=O)OCC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C36H44N4O8
